US09422281B2
A mixture of (S)-cyclopentyl 7-bromo-3-methyl-4-(2,2,2-trifluoroacetyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.250 g, 0.574 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.148 g, 0.632 mmol), tris(dibenzylideneacetone)dipalladium (0.026 g, 0.029 mmol), X-Phos (0.027 g, 0.057 mmol) and cesium carbonate (0.561 g, 1.723 mmol) in 1,4-dioxane (5.0 mL) and water (1.0 mL) was heated at 100° C. for 17 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 25-100% ethyl acetate-hexane) to afford (S)-cyclopentyl 7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.124 g, 59%) as a yellow solid. MS (ESI, pos. ion) m/z 367 [M+1]+.

reactant | (S)-cyclopentyl 7-bromo-3-methyl-4-(2,2,2-trifluoroacetyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.574 mmol, 0.250 g | BrC1=CC=C2N([C@H](CN(C2=C1)C(=O)OC1CCCC1)C)C(C(F)(F)F)=O | C17H18BrF3N2O3
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.632 mmol, 0.148 g | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | X-Phos | 0.057 mmol, 0.027 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | cesium carbonate | 1.723 mmol, 0.561 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.0 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.029 mmol, 0.026 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-cyclopentyl 7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.124 g, 59% | C1(CC1)N1N=CC(=C1)C1=CC=C2N[C@H](CN(C2=C1)C(=O)OC1CCCC1)C | C21H26N4O2
